US08669266B2
(iii) 4-{2-[(4-Carboxymethoxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
To a solution of 290 mg 4-{2-[(4-Benzyloxycarbonylmethoxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester in 10 ml ethanol were added under argon 50 mg Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (5 bar) for 16 h. The suspension was filtered over a plug of Celite® and washed with ethanol and DMF. The crude product was obtained after evaporation of the solvent. Yield: 270 mg.

reactant | 4-{2-[(4-Benzyloxycarbonylmethoxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | 290 mg | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=C(C=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C)C)=O | C32H38N4O7
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-{2-[(4-Carboxymethoxy-6,7-dimethyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=C(C=C2C(=C1)OCC(=O)O)C)C)=O | C25H32N4O7
